US05037890
(Step 2: Graft copolymerization of butylacrylate)
In a 50 ml internal volume flask, 1 g of the olefin copolymer obtained in the above described step (1) was introduced, and 3 ml of toluene and 5 ml of methyl methacrylate were added under nitrogen gas atmosphere. Thermal graft polymerization of methyl methacrylate was conducted at 80° C. for 4 hours.

reactant | methyl methacrylate | 5 ml | C(C(=C)C)(=O)OC | C5H8O2
reactant | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
product | butylacrylate | C(CCC)OC(C=C)=O | C7H12O2
